US06903215B2
Synthesis of 4-(4-chlorophenyl)-1,1,1-trifluoro-4-methyl-2-pyridin-2-ylmethylpentan-2-ol
A mixture of 2-picoline in 1 mL of THF was cooled down to −78° C. tert-Butyl lithium (1.7 M in pentanes, 0.2 mL (0.34 mmol)) was added dropwise over 5 minutes. The mixture stirred at −78° C. for 15 minutes, and then a solution of 40 mg of 4-(4-chlorophenyl)-1,1,1-trifluoro-4-methylpentan-2-one in 0.5 mL of THF was added. Stirring continued at −78° C. for 20 minutes. The reaction was quenched with 0.5 N HCl and extracted three times with EtOAc. The organic layers were combined and washed with water, brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography to yield 9.6 mg of the title compound as a light yellowish oil.

reactant | 2-picoline | N1=C(C=CC=C1)C | C6H7N
reactant | tert-Butyl lithium | 0.34 mmol, 1.7 M, 0.2 mL | C(C)(C)(C)[Li]
reactant | 4-(4-chlorophenyl)-1,1,1-trifluoro-4-methylpentan-2-one | 40 mg | ClC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)(C)C | C12H12ClF3O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(4-chlorophenyl)-1,1,1-trifluoro-4-methyl-2-pyridin-2-ylmethylpentan-2-ol | 9.6 mg | ClC1=CC=C(C=C1)C(CC(C(F)(F)F)(O)CC1=NC=CC=C1)(C)C | C18H19ClF3NO
